US03996246
120 g of the 3-aminomethylpinane thus obtained are dissolved in 1.3 l of pentane and dry hydrogen chloride is passed into the solution at from 0° to 5° C, whilst stirring. When free amine is no longer detectable, the crystals produced are filtered off and dried. 142 g of (+)-3-aminomethylpinane hydrochloride of optical rotation [α]D23 = +35.4° (c = 1, methanol) are obtained.

reactant | 3-aminomethylpinane | 120 g | NCC1C(C2C(C(C1)C2)(C)C)C | C11H21N
reactant | hydrogen chloride | Cl | ClH
solvent | pentane | 1.3 l | CCCCC | C5H12
product | (+)-3-aminomethylpinane hydrochloride | 142 g | Cl.NCC1C(C2C(C(C1)C2)(C)C)C | InChI=1S/C11H21N.ClH/c1-7-8(6-12)4-9-5-10(7)11(9,2)3;/h7-10H,4-6,12H2,1-3H3;1H
